data/mechanism_extracts/AdvSynthCatal/10.1002_adsc.201901262.json
{"doi": "10.1002_adsc.201901262", "journal": "AdvSynthCatal", "is_review": false, "rxn_class_summary": "Electrochemical intramolecular oxy-chalcogenation of N-allylbenzamides and allyl oximes with diaryl dichalcogenides to form selenylated/thiolated oxazolines and isoxazolines via tandem C-O and C-chalcogen bond formation", "mechanism_family": ["radical_anodic", "cation_initiated", "direct_SET"], "electrochemical_role": "Anodic oxidation of PhSeSePh (peak 1.66 V vs Ag/AgCl) to PhSe+ cation and PhSe radical; also direct anodic oxidation of the amide substrate (1.32 V) to a delocalized N/O-centered radical; cathodic reduction generates H2 and reduces PhSeSePh (-1.44 V) to PhSe radical + PhSe anion (oxidized back to PhSe radical)", "key_intermediates": [{"name": "phenylselenium cation (PhSe+) A", "smiles": "[Se+](c1ccccc1)", "role": "reactive"}, {"name": "phenylselenium radical (PhSe•) B", "smiles": "[Se](c1ccccc1)", "role": "reactive"}, {"name": "phenylselenium anion (PhSe-) D", "smiles": "[Se-]c1ccccc1", "role": "transient"}, {"name": "seleniranium/β-selenyl carbocation C from PhSe+ addition to allyl alkene", "smiles": null, "role": "reactive"}, {"name": "delocalized amidyl/oxy radical E from oxidation of N-allylbenzamide 1a", "smiles": null, "role": "reactive"}, {"name": "TEMPO adduct 13 from trapping of allyl/carbon radical of oxime 6a", "smiles": null, "role": "off_pathway"}, {"name": "PhSeSePh radical cation", "smiles": null, "role": "transient"}], "electron_flow": "At the anode, PhSeSePh is oxidized to PhSe+ (cation) and PhSe• (radical), while the amide/oxime substrate can also be directly oxidized to a heteroatom-centered radical; PhSe+ adds to the allyl alkene to give a cation cyclized by the amide/oxime oxygen (ionic pathway I), or the substrate-derived radical cyclizes and couples with PhSe• (radical pathway II); the cathode reduces protons to H2 and PhSeSePh to PhSe•/PhSe-.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO (with amide 1a)", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Product 3aa formation diminished to 21% yield, indicating partial radical pathway"}, {"name": "TEMPO (with oxime 6a)", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Selenylation shut down (only trace of 7aa); TEMPO-carbon adduct 13 isolated in 78% yield, supporting radical intermediate for oxime"}, {"name": "Controlled potential electrolysis at 1.00, 1.55, 1.77 V (0.5 F/mol)", "smiles": null, "purpose": "redox_probe", "observation": "No product at 1.00 V; 27% 3aa at 1.55 V (only reduction of 2a + oxidation of 1a feasible → radical pathway active); 39% at 1.77 V exceeds the 33% maximum for pathway II alone, indicating ionic pathway I also operates"}, {"name": "Cyclic voltammetry", "smiles": null, "purpose": "redox_probe", "observation": "PhSeSePh oxidation peak at 1.66 V and reduction peak at -1.44 V vs Ag/AgCl; amide 1a oxidation at 1.32 V; oxime 6a oxidation at 1.13 V (lower, consistent with dominant radical pathway for isoxazolines)"}], "evidence_types_used": ["intermediate_trap_TEMPO", "cyclic_voltammetry", "isolation_of_intermediate", "kinetic_order"], "evidence_strength": "medium", "notes": "Two parallel mechanisms proposed: Pathway I (ionic, PhSe+ addition then O-cyclization, 1.0 F/mol) and Pathway II (radical, substrate oxidation/cyclization then PhSe• coupling, 1.5 F/mol). For oxazolines from amides both pathways operate; for isoxazolines from oximes the radical pathway dominates as evidenced by the high yield of TEMPO adduct 13 and the lower oxidation potential of the oxime. Only sub-stoichiometric diselenide is needed because PhSe is recycled between anode and cathode."}
